US09353081B2
[A] Lithium 4-bromo-6-(methoxycarbonyl)-5H-cyclopenta[c]pyridin-7-olate
Ethyl 5-bromonicotinate (5 g, 21.7 mmol) in THF (22 mL) was added over a period of 20 min to a solution of LDA (23.9 mmol) [generated from N,N-diisopropylamine (3.41 mL, 23.9 mmol) and n-butyllithium (14.9 mL, 23.9 mmol, 1.6M in hexane) in THF (95 mL)] at −78° C. The resulting dark red solution was stirred for 30 min, then methyl acrylate (4.9 mL, 54.3 mmol) in THF (22 mL) was added over 15 min. The reaction was stirred an additional 1.5 h, then aq. 10% AcOH (43.5 mL, 76.1 mmol) was added (giving a pH of 4-5) and the reaction was allowed to warm to room temperature. Evaporation under reduced pressure afforded the title compound (in 50% purity, determined by 1H-NMR) as dark green amorphous solid. MS: 270.0 (M+H+, 1Br).

reactant | Ethyl 5-bromonicotinate | 21.7 mmol, 5 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | LDA | 23.9 mmol, 1.6M, 3.41 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl acrylate | 54.3 mmol, 4.9 mL | C(C=C)(=O)OC | C4H6O2
reactant | AcOH | 76.1 mmol, 43.5 mL | CC(=O)O | C2H4O2
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | Lithium 4-bromo-6-(methoxycarbonyl)-5H-cyclopenta[c]pyridin-7-olate | 50% | BrC=1C2=C(C=NC1)C(=C(C2)C(=O)OC)[O-].[Li+] | InChI=1S/C10H8BrNO3.Li/c1-15-10(14)6-2-5-7(9(6)13)3-12-4-8(5)11;/h3-4,13H,2H2,1H3;/q;+1/p-1
